US06096782
Using the procedure set forth in U.S. Pat. No. 3,598,859 (or Example A above), N-(3,5-dichlorophenyl)-D,L-alanine was prepared using 3,5-dichloroaniline (Aldrich) and 2-chloropropionic acid (Aldrich).

reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | 2-chloropropionic acid | ClC(C(=O)O)C | C3H5ClO2
product | N-(3,5-dichlorophenyl)-D,L-alanine | ClC=1C=C(C=C(C1)Cl)NC(C)C(=O)O | C9H9Cl2NO2
